US06521643B1
A suspension of 2-acetyl-4-methylpyridine (0.65 g) in N,N-dimethylformamide dimethyl acetal (4 ml) was refluxed for 10 hours and evaporated under reduced pressure. The residue was triturated with diisopropyl ether, filtered and dried under reduced pressure to give 3-dimethylamino-1-(4-methylpyridin-2-yl)prop-2-en-1-one (777 mg).

reactant | 2-acetyl-4-methylpyridine | 0.65 g | C(C)(=O)C1=NC=CC(=C1)C | C8H9NO
reactant | N,N-dimethylformamide dimethyl acetal | 4 ml | COC(N(C)C)OC | C5H13NO2
product | 3-dimethylamino-1-(4-methylpyridin-2-yl)prop-2-en-1-one | 777 mg | CN(C=CC(=O)C1=NC=CC(=C1)C)C | C11H14N2O
